US06291460B1
a) 3-(Pyridin-3-yl)benzaldehyde
3-Bromobenzaldehyde (5 g, 27 mmol), diethyl (pyridin-3-yl)borane (3.97 g, 27 mmol) and potassium carbonate (11 g, 81 mmol) were dissolved in ethylene glycol dimethyl ether and water (40 ml, 2:1) and degassed under N2 then heated at 80° C. for 18 h after addition of tetrakis(triphenylphosphine)palladium(0) (0.2 g). The reaction was then diluted with ethyl acetate and water (200 ml, 1:1) and passed through a hyflo filter plug, the separated organic phase was washed with brine, dried (MgSO4) and evaporated to dryness. Purified on SiO2 eluting with 25-50% ethyl acetate-hexane to afford the title compound (3.6 g, 73%). MS (ES+) m/e 184 [MH]+.

reactant | 3-Bromobenzaldehyde | 27 mmol, 5 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | diethyl (pyridin-3-yl)borane | 27 mmol, 3.97 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | potassium carbonate | 81 mmol, 11 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | 3-(Pyridin-3-yl)benzaldehyde | 3.6 g, 73% | N1=CC(=CC=C1)C=1C=C(C=O)C=CC1 | C12H9NO
